US03984573
Using a procedure similar to that of Example I, a mixture of 50 g (0.32mole) of 2-mercaptobenzoic acid, 60 g (1.3 moles) of absolute ethanol, 200 ml. of benzene and 1.0 g of sulfuric acid (98%) was heated at refux for 28 hours and yielded ethyl 2-mercaptobenzoate: 23.3 g (40% yield); bp 99°-100°C/0.8 mm; mol. wt. 182:

reactant | 2-mercaptobenzoic acid | 0.32mole, 50 g | SC1=C(C(=O)O)C=CC=C1 | C7H6O2S
reactant | ethanol | 1.3 moles, 60 g | C(C)O | C2H6O
reactant | sulfuric acid | 1.0 g | S(O)(O)(=O)=O | H2O4S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | ethyl 2-mercaptobenzoate | 40% yield | SC1=C(C(=O)OCC)C=CC=C1 | C9H10O2S
